US04564610
The residue (2-methyl-5-tosyl-5H-pyrimido-[5,4-b]indole) is taken up in 100 ml of ethanol and combined with a solution of 1.4 g of sodium in 90 ml of ethanol. The mixture is refluxed for 2 hours. Then the mixture is poured into an aqueous sodium dihydrogen phosphate solution. The aqueous phase is extracted by shaking with methylene chloride. The methylene chloride extracts are washed with saturated sodium chloride solution, dried, and evaporated. The residue is chromatographed with a mixture of 10 parts of methylene chloride and one part of methanol on silica gel, thus obtaining 0.13 g of 2-methyl-5H-pyrimido[5,4-b]indole, mp 240°-242° C.

reactant | 2-methyl-5-tosyl-5H-pyrimido-[5,4-b]indole | CC=1N=CC=2N(C=3C=CC=CC3C2N1)S(=O)(=O)C1=CC=C(C)C=C1 | C18H15N3O2S
reactant | sodium | 1.4 g | [Na] | Na
reactant | sodium dihydrogen phosphate | P(=O)(O)(O)[O-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 90 ml | C(C)O | C2H6O
product | 2-methyl-5H-pyrimido[5,4-b]indole | 0.13 g | CC=1N=CC=2NC=3C=CC=CC3C2N1 | C11H9N3
